US07375113B2
4-(2-{4-[(E)-3-Carboxyprop-1-enyl]phenyl}ethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]-pyridine
A mixture of 4-[2-(4-bromophenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]-pyridine (0.27 g), 3-butenoic acid (56 mg), triethylamine (0.23 mL), palladium (II) acetate (7 mg) and tris(2-methyl-phenyl)phosphine (20 mg) in acetonitrile (5 mL) was heated for reflux under an argon atmosphere overnight. The reaction mixture was diluted with dichloromethane, and the insoluble material was removed by filtration. The filtrate was washed with 1 mol/L hydrochloric acid, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=20/1) to give the title compound (0.19 g).

reactant | 4-[2-(4-bromophenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]-pyridine | 0.27 g | BrC1=CC=C(C=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C40H54BrN3O10
reactant | 3-butenoic acid | 56 mg | C(CC=C)(=O)O | C4H6O2
reactant | triethylamine | 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | tris(2-methyl-phenyl)phosphine | 20 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium (II) acetate | 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(2-{4-[(E)-3-Carboxyprop-1-enyl]phenyl}ethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]-pyridine | 0.19 g | C(=O)(O)C/C=C/C1=CC=C(C=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C44H59N3O12
